US09145411B2
Step 1: 4-(2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)benzoic acid
To a 50 mL round bottom flask, 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine (1.0 g, 0.0030 mol—Preparation 3), 4-carboxyphenylboronic acid (0.5 g, 0.0030 mol), sodium carbonate (0.64 g, 0.0060 mol) dioxane (60 mL), ethanol (10 mL) and water (10 mL) were added. The reaction mixture was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)2Cl2 (0.106 g, 0.00015 mol) was added and degassed with N2 for 5-10 minutes. The reaction mixture was stirred at 90° C. for 2 hours. The volatiles were evaporated to provide a residue. The residue was stirred with water and acidified with 2 N hydrochloric acid to pH 5-6 to provide a precipitate. The precipitate was collected by filtration and dried under reduced pressure to afford the title compound (0.8 g, 71%). The compound was used in the next step without further purification. 1H NMR (300 MHz, DMSO-d6): δ 9.18 (d, J=2.4 Hz, 1H), 8.40 (d, J=2.4 Hz, 1H), 8.10-8.03 (m, 4H), 4.58 (br s, 4H), 3.79 (t, J=4.5 Hz, 4H): LC-MS (ESI): Calculated mass: 370.0; Observed mass [M+H]+: 371.1 (RT=1.37 min).

reactant | 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.0030 mol, 1.0 g | BrC1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl | C11H10BrClN4O
reactant | 4-carboxyphenylboronic acid | 0.0030 mol, 0.5 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | sodium carbonate | 0.0060 mol, 60 mL, 0.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | Pd(PPh3)2Cl2 | 0.00015 mol, 0.106 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)benzoic acid | 0.8 g, 71% | ClC=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(C(=O)O)C=C2)N2CCOCC2 | C18H15ClN4O3
